US07897627B2
a) Step 1: 5,6-Difluoro-benzothiazole-2-thiol
A mixture of 1 g (6.80 mmol) 2,4,5-trifluoroaniline and 1.33 g (8.16 mmol) potassium ethylxanthogenate in 5 mL dry N,N-dimethylformamide was heated in a 95° C. oil bath for 7 h. The reaction mixture was cooled to room temperature and diluted with water (15 mL). The mixture was acidified with aqueous HCl 2N. The precipitate was collected by filtration, washed with water and dried to provide 0.55 g (40%) of the titled compound as a light yellow solid. MS(m/e): 201.9 (M−H+).

reactant | 2,4,5-trifluoroaniline | 6.80 mmol, 1 g | FC1=C(N)C=C(C(=C1)F)F | C6H4F3N
reactant | potassium ethylxanthogenate | 8.16 mmol, 1.33 g | CCOC(=S)[S-].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 15 mL | O | H2O
product | 5,6-Difluoro-benzothiazole-2-thiol | 0.55 g, 40% | FC=1C(=CC2=C(N=C(S2)S)C1)F | C7H3F2NS2
